US05122615
Preparation of 2,4-Dichloro-5-(3,4-dichlorophenyl)-1-(ethoxymethyl)pyrrole-3-carbonitrile
To a mixture of potassium tert-butoxide (0.62 g, 0.0055 mol) and tetrahydrofuran (50 mL) is added 2,4-dichloro-5-(3,4-dichlorophenyl)pyrrole-3-carbonitrile (1.3 g, 0.0043 mol) followed by chloromethyl ethyl ether (0.52 g, 0.0055 mol). After stirring the reaction mixture overnight, TLC (1:1 hexane/ethyl acetate shows no remaining starting pyrrole and the reaction is concentrated in vacuo. Addition of water to the residue affords a solid which is collected and dried to give the title compound as a brown solid (1.4 g, 90%, mp 106°-109° C.) which is indentified by IR and NMR spectral analyses.

reactant | potassium tert-butoxide | 0.0055 mol, 0.62 g | CC(C)([O-])C.[K+]
reactant | 2,4-dichloro-5-(3,4-dichlorophenyl)pyrrole-3-carbonitrile | 0.0043 mol, 1.3 g | ClC=1NC(=C(C1C#N)Cl)C1=CC(=C(C=C1)Cl)Cl | C11H4Cl4N2
reactant | chloromethyl ethyl ether | 0.0055 mol, 0.52 g | C(C)OCCl | C3H7ClO
reactant | pyrrole | N1C=CC=C1 | C4H5N
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2,4-Dichloro-5-(3,4-dichlorophenyl)-1-(ethoxymethyl)pyrrole-3-carbonitrile | 1.4 g, 90% | ClC=1N(C(=C(C1C#N)Cl)C1=CC(=C(C=C1)Cl)Cl)COCC | C14H10Cl4N2O
